US08124606B2
(S)-3-(hydroxymethyl)-7,8-dihydro-5H-azeto[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one (103 mg, 0.5 mmol), 4-(piperazin-1-yl)benzonitrile (108 mg, 0.575 mmol), (cyanomethyl)trimethylphosphonium iodide (207 mg, 0.850 mmol) and N,N-diisopropylethylamine (0.437 ml, 2.500 mmol) were suspended in Propiononitrile (Volume: 1.502 ml) and heated in a closed vial at 90° C. for 23 h. The reaction mixture was cooled, diluted with MeOH (2 mL) and purified using preparative HPLC (basic phase). The fractions containing product were concentrated in vacuo and crystallized from water-methanol (3 mL, ˜5:1) The precipitate was filtered and dried in vacuum to afford (S)-4-(4-((6-oxo-6,6a,7,8-tetrahydro-5H-azeto[1,2-a]pyrido[3,2-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile (11.7 mg, 0.031 mmol, 6.25% yield) as a light brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.37-2.47 (m, 4H) 2.68-2.80 (m, 1H) 2.94 (tt, J=10.67, 7.26 Hz, 1H) 3.30 (d, J=4.80 Hz, 4H) 3.36 (s, 2H) 3.87-4.00 (m, 1H) 4.21 (q, J=7.66 Hz, 1H) 4.93 (t, 1H) 6.98 (d, J=1.77 Hz, 1H) 7.00 (d, J=9.09 Hz, 2H) 7.57 (d, J=9.09 Hz, 2H) 7.65 (d, J=1.77 Hz, 1H) 10.34 (s, 1H). [M+H] calc'd for C21H22N6O, 374. found, 374.

reactant | (S)-3-(hydroxymethyl)-7,8-dihydro-5H-azeto[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one | 0.5 mmol, 103 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CC3)=O | C10H11N3O2
reactant | 4-(piperazin-1-yl)benzonitrile | 0.575 mmol, 108 mg | N1(CCNCC1)C1=CC=C(C#N)C=C1 | C11H13N3
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.850 mmol, 207 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 2.500 mmol, 0.437 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Propiononitrile | 1.502 ml | C(CC)#N | C3H5N
solvent | MeOH | 2 mL | CO | CH4O
product | (S)-4-(4-((6-oxo-6,6a,7,8-tetrahydro-5H-azeto[1,2-a]pyrido[3,2-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile | 0.031 mmol, 11.7 mg, 6.25% yield | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C#N)C=C3)CC2 | C21H22N6O
